US04168385
Methyl α-(m-tert-butylphenoxy)-α-[p-(p-tert-butylphenoxy)phenyl]acetate
In a manner similar to Example 16, 7.54 g of methyl α-bromo-α-[p-(p-tert-butylphenoxy)phenyl]acetate was treated with 3.75 g of m-tert-butylphenol to yield 7.4 g of product as a pale yellow glass.

reactant | methyl α-bromo-α-[p-(p-tert-butylphenoxy)phenyl]acetate | 7.54 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C)(C)C | C19H21BrO3
reactant | m-tert-butylphenol | 3.75 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
product | Methyl α-(m-tert-butylphenoxy)-α-[p-(p-tert-butylphenoxy)phenyl]acetate | 7.4 g | C(C)(C)(C)C=1C=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)C(C)(C)C)C=CC1 | C29H34O4
